* Z:\mnt\design.r\spice\examples\1965.asc
XU1 IN IN 0 OUT N001 LT1965
R1 OUT N001 5.11K
R2 N001 0 4.75K
C1 OUT 0 10µ
V1 IN 0 PWL(0 0 1 5)
Rload OUT 0 2.5
.tran 1 startup
.lib LT1965.lib
.backanno
.end
